US09284333B2
To a solution of 5-methoxy-pyrazine-2-carbonitrile (1.0 g, 7.4 mmol) in tetrahydrofuran at −78° C. was added dropwise 1 M methylmagnesium bromide (8.14 ml, 8.14 mmol) and the mixture was stirred for 1 h at 25° C. Sodium borohydride (250 mg, 6.62 mmol) was added at −78° C. and the mixture was allowed to warm to 25° C. Aqueous ammonium chloride was added and after addition of excess potassium carbonate the mixture was extracted 3 times with dichloromethane, solvents were evaporated to give 0.05 g (4%) of crude 1-(5-methoxy-pyrazin-2-yl)-ethylamine. LC/MS (method 5): Rt=1.26 min; m/z=154.15 (M+H+).

reactant | 5-methoxy-pyrazine-2-carbonitrile | 7.4 mmol, 1.0 g | COC=1N=CC(=NC1)C#N | C6H5N3O
reactant | methylmagnesium bromide | 8.14 mmol, 1 M, 8.14 ml | C[Mg]Br
reactant | Sodium borohydride | 6.62 mmol, 250 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(5-methoxy-pyrazin-2-yl)-ethylamine | 0.05 g, 4% | COC=1N=CC(=NC1)C(C)N | C7H11N3O
